US07572808B2
Preparation of 8-(4-chlorophenyl)-2-isobutyl-7-(4-methoxyphenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a stirring, degassed mixture of 7-bromo-8-(4-chlorophenyl)-2-isobutyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (0.05 g, 0.13 mmol), 4-methoxyphenylboronic acid (0.06 g, 0.39 mmol), and tetrakis(triphenylphosphine)palladium (8 mg, 0.007 mmol) in dioxane (1.0 mL) at 20° C. was added K2CO3 (0.04 g, 0.26 mmol) in water (0.34 mL). The resulting reaction mixture was heated in a microwave reactor at 150° C. for 10 min under argon. Analysis by HPLC/MS indicated that starting material had been consumed. The reaction mixture was brought to room temperature and was concentrated under reduced pressure. The crude product was purified by reverse phase preparative HPLC (acetonitrile-water-TFA) to isolate 23 mg of the title compound as a yellow solid. MS: [M+H]+=408.

reactant | 7-bromo-8-(4-chlorophenyl)-2-isobutyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.13 mmol, 0.05 g | BrC1=C(C=2N(C=C1)C(N(N2)CC(C)C)=O)C2=CC=C(C=C2)Cl | C16H15BrClN3O
reactant | 4-methoxyphenylboronic acid | 0.39 mmol, 0.06 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | K2CO3 | 0.26 mmol, 0.04 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.34 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.007 mmol, 8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-(4-chlorophenyl)-2-isobutyl-7-(4-methoxyphenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 23 mg | ClC1=CC=C(C=C1)C=1C=2N(C=CC1C1=CC=C(C=C1)OC)C(N(N2)CC(C)C)=O | C23H22ClN3O2
